US07612212B2
To a solution of (S)-2-(9H-fluoren-9-ylmethoxycarbonylamino)-3-naphthalen-2-yl-propionic acid (1.0 g, 2.30 mmol) and 2-fluoro-4-iodoaniline (434 mg, 1.84 mmol), triphenylphosphine (0.94 g, 3.45 mmol) and pyridine (0.39 mL, 4.60 mmol) in dichloromethane (10 mL) at 0° C. was added N-bromosuccinimide (0.61 mg, 3.45 mmol) in two portions under an atmosphere of dry nitrogen. The mixture was stirred for 2 hours at 0° C. The reaction mixture was purified by chromatography over silica gel gradient eluted from 100% dichloromethane up to 10% methanol/90% dichloromethane over 30 minutes. Concentration of the product containing fractions gave [(S)-1-(2-fluoro-4-iodo-phenylcarbamoyl)-2-naphthalen-2-yl-ethyl]-carbamic acid 9H-fluoren-9-ylmethyl ester as a yellow solid foam (1.05 g, 70%).

reactant | (S)-2-(9H-fluoren-9-ylmethoxycarbonylamino)-3-naphthalen-2-yl-propionic acid | 2.30 mmol, 1.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C28H23NO4
reactant | 2-fluoro-4-iodoaniline | 1.84 mmol, 434 mg | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | triphenylphosphine | 3.45 mmol, 0.94 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyridine | 4.60 mmol, 0.39 mL | N1=CC=CC=C1 | C5H5N
reactant | N-bromosuccinimide | 3.45 mmol, 0.61 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [(S)-1-(2-fluoro-4-iodo-phenylcarbamoyl)-2-naphthalen-2-yl-ethyl]-carbamic acid 9H-fluoren-9-ylmethyl ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N[C@@H](CC1=CC2=CC=CC=C2C=C1)C(NC1=C(C=C(C=C1)I)F)=O)=O | C34H26FIN2O3
